US04942241
A mixture of 11.56 g 1-nitropropane, 15 g 1-chloro-4-pentyne [HC≡C(CH2)3Cl], 37 g phenylisocyanate and 4 ml triethylamine in 300 ml toluene was stirred at room temperature for three days. The reaction mixture was filtered, the filtrate concentrated in vacuo, and the residue chromatographed (silica gel, eluted with hexane and 20% ethyl acetate in hexane) to give 12 g 5-(2-chloropropyl)-3-ethylisoxazole as a yellow oil.

reactant | 1-nitropropane | 11.56 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | 1-chloro-4-pentyne | 15 g | ClCCCC#C | C5H7Cl
reactant | phenylisocyanate | 37 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-chloropropyl)-3-ethylisoxazole | 12 g | ClC(CC1=CC(=NO1)CC)C | C8H12ClNO
